US09399639B2
Step 5) Sodium 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl phosphate
To the solution of 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl dihydrogen phosphate (4 g, 6.5 mmol) in EA/THF (30 mL, 2/1) was added NaOH (0.57 g, 14.3 mmol) in H2O (1 mL) at rt. Then the mixture was stirred at room temperature over night. The mixture was filtered and dried under vacuum at 45° C. for 10 h to give the title compound as a white solid (4.0 g, 93%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl dihydrogen phosphate | 6.5 mmol | P(=O)(OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)(O)O | C25H23ClF2N3O7PS
reactant | NaOH | 14.3 mmol, 0.57 g | [OH-].[Na+]
solvent | EA THF | 30 mL | CC(OCC)=O.C1CCOC1
solvent | H2O | 1 mL | O | H2O
product | Sodium 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl phosphate | 4.0 g, 93% | P(=O)(OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)([O-])[O-].[Na+].[Na+] | InChI=1S/C25H23ClF2N3O7PS.2Na/c1-3-10-40(36,37)30-21-9-8-20(27)22(23(21)28)24(32)19-13-31(14(2)38-39(33,34)35)25-18(19)11-16(12-29-25)15-4-6-17(26)7-5-15;;/h4-9,11-14,30H,3,10H2,1-2H3,(H2,33,34,35);;/q;2*+1/p-2
